US08912188B2
To a solution of methyl 3-chloro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (500 mg, crude) in DMSO (6 mL) was added DIEA (543 mg, 4.20 mmol) and azepane (208 mg, 2.10 mmol). The solution was stirred overnight at 90° C. Then the reaction was quenched by the addition of water (50 mL), extracted with ethyl acetate (5×20 mL) and the organic layers were concentrated under vacuum to give a residue, which was purified by a silica gel column with 1%-5% ethyl acetate in petroleum ether to afford methyl 3-(azepan-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate as a yellow solid (165 mg).

reactant | methyl 3-chloro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 500 mg | ClC=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C10H7ClN2O3
reactant | DIEA | 4.20 mmol, 543 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | azepane | 2.10 mmol, 208 mg | N1CCCCCC1 | C6H13N
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | methyl 3-(azepan-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 165 mg | N1(CCCCCC1)C=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C16H19N3O3
